* source CMOSINVERTER
M_M1         N00192 N00240 0 0 NMOS  
+ L=180n  
+ W=180n         
M_M2         N00192 0 N00361 N00361 Mbreakp  
+ L=180n  
+ W=270n         
C_C1         N00192 0  3.5f  TC=0,0 
V_V1         N00240 0 DC 1.8 
+PULSE 0 1.8 0 0.5n 0.5n 5n 10n
V_V2         N00361 0 1.8Vdc
