* source PMOS_2
M_M1         N00187 N00173 N00182 N01280 MbreakP  
+ L=1u  
+ W=1u         
V_V1         N00173 0 0.7Vdc
V_V2         N00182 0 1.8Vdc
V_V3         N00187 0 0.7Vdc
V_V4         N01280 N00182 0Vdc
