* source RESISITIVELOAD
M_M1         N00188 N00145 0 0 Mbreakn  
+ L=180n  
+ W=180n         
R_R1         N00188 N000731 30k
C_C1         0 N00188 3.5f TC=0
V_V2         N000731 0 1.8
V_V3         N00145 0  
+PULSE 0 1.8 0 0.5n 0.5n 5n 10nm
